US07022689B2
To a stirred solution of 0.154 g of (4-isopropyl-2-nitrophenyl)acetonitrile in 2 mL of tetrahydrofuran was added 1.62 mL of 0.93 mol/L borane-tetrahydrofuran complex under ice-cooling, and the mixture was stirred at room temperature for 15 hours. The reaction mixture was cooled under ice-cooling, and to the mixture were added 2 mL of methanol and 20 mL of water. After the mixture was extracted with ethyl acetate, the organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent: ethyl acetate) to give 64 mg of 2-(4-isopropyl-2-nitrophenyl)ethylamine.

reactant | (4-isopropyl-2-nitrophenyl)acetonitrile | 0.154 g | C(C)(C)C1=CC(=C(C=C1)CC#N)[N+](=O)[O-] | C11H12N2O2
reactant | methanol | 2 mL | CO | CH4O
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-(4-isopropyl-2-nitrophenyl)ethylamine | 64 mg | C(C)(C)C1=CC(=C(C=C1)CCN)[N+](=O)[O-] | C11H16N2O2
